US07868036B2
11 6-Bromo-1-(3-methoxypropyl)-2-trifluoromethyl-1H-benzoimidazole
0.2 ml of concentrated aqueous hydrochloric acid is added under an argon atmosphere to a solution of 12.83 g of 4-bromo-N2-(3-methoxypropyl)benzene-1,2-diamine in 5.78 ml of trifluoroacetic acid. The reaction mixture is heated to reflux for 4 hours. 2 ml of trifluoroacetic acid are once again added and the reaction mixture is heated to reflux for a further 2 hours. The reaction mixture is cooled to room temperature and neutralized with saturated aqueous sodium hydrogencarbonate solution. The mixture is extracted with ethyl acetate (3×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.60 (1:2 EtOAc-heptane). Rt=4.79 (gradient I).

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 4-bromo-N2-(3-methoxypropyl)benzene-1,2-diamine | 12.83 g | BrC=1C=C(C(=CC1)N)NCCCOC | C10H15BrN2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic acid | 5.78 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Bromo-1-(3-methoxypropyl)-2-trifluoromethyl-1H-benzoimidazole | BrC=1C=CC2=C(N(C(=N2)C(F)(F)F)CCCOC)C1 | C12H12BrF3N2O
